US06949579B2
N-(5-amino-1H-indazol-3-yl)butanamide
20 g of iron sulphate heptahydrate dissolved in 50 cm3 of hot water are added to a solution of 2.05 g of N-[5-nitro-1H-indazol-3-yl]butanamide, described in Example 23, in 80 cm3 of ethanol; the mixture is stirred for 30 minutes at room temperature, 24 cm3 of 28% aqueous ammonia are added and the mixture is then refluxed for 2 hours, 10 cm3 of 28% aqueous ammonia are added and the mixture is stirred for a further 10 minutes. The precipitate is filtered off while hot, on a sinter funnel packed with Celite, rinsed with methanol until the filtrate is colourless, and concentrated to dryness under reduced pressure (2 kPa; 50° C.). The residue is taken up in 100 cm3 of ethyl acetate and is washed with 50 cm3 of saturated aqueous sodium chloride solution. The organic phase is separated out after settling of the phases has taken place, dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure. After drying (90 Pa; 50° C.) 870 mg of N-(5-amino-1H-indazol-3-yl)butanamide are obtained in the form of a purple powder.

reactant | N-[5-nitro-1H-indazol-3-yl]butanamide | 2.05 g | [N+](=O)([O-])C=1C=C2C(=NNC2=CC1)NC(CCC)=O | C11H12N4O3
reactant | ammonia | 24 cm3 | N | H3N
reactant | ammonia | 10 cm3 | N | H3N
solvent | water | 50 cm3 | O | H2O
solvent | ethanol | 80 cm3 | C(C)O | C2H6O
catalyst | iron sulphate heptahydrate | 20 g | O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Fe+2]
product | N-(5-amino-1H-indazol-3-yl)butanamide | NC=1C=C2C(=NNC2=CC1)NC(CCC)=O | C11H14N4O
